US09216182B2
a) 6-(3-hydroxypyrrolidin-1-yl)nicotinamide
To a solution of 6-chloronicotinamide (0.16 g, 1 mmol) and pyrrolidin-3-ol (0.87 g, 1 mmol) in DMF (5 ml) was added K2CO3 (0.41 g, 3 mmol). The resulting solution was stirred under nitrogen at 125° C. for 24 h, and then allowed to cool to ambient temperature. The reaction mixture was then filtered and the filter cake was washed with ethyl acetate. The combined filtrates were concentrated to afford the title compound (0.145 g, 70%) as a yellow solid. [LCMS RtA=1.23 min, [M+H]+=208.1].

reactant | 6-chloronicotinamide | 1 mmol, 0.16 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | pyrrolidin-3-ol | 1 mmol, 0.87 g | N1CC(CC1)O | C4H9NO
reactant | K2CO3 | 3 mmol, 0.41 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 6-(3-hydroxypyrrolidin-1-yl)nicotinamide | 0.145 g, 70% | OC1CN(CC1)C1=NC=C(C(=O)N)C=C1 | C10H13N3O2
